US06103910
a) 1-[(R)3-Acetylsulfanyl-2-methyl-propionyl]-(R)-pyrrolidine-2-carboxylic acid
18.9 g (60.0 mmol) 1-(3-acetylsulfanyl-2-methyl-propionyl)-pyrrolidine-2-carboxylic acid tert-butyl ester were stirred with 120 ml trifluoric acid and 75 ml anisole under argon for three hours. The mixture was evaporated under vacuum. The residue was dissolved in icecold ethylacetate and washed with an icecold aqueous solution of sodiumbicarbonate. Concentrated hydrochloric acid was added unter icecooling until ph 2-3. The aqueous phase was extracted three times with icecold ethylacetate, dried with sodium sulfate and evaporated. The yield was 15.3 g (98%) 1-[(R)3-acetylsulfanyl-2-methyl-propionyl]-(R)-pyrrolidine-2-carboxylic acid that was used without further purification. [a]D =+127.8° (1% EtOH).

reactant | 1-(3-acetylsulfanyl-2-methyl-propionyl)-pyrrolidine-2-carboxylic acid tert-butyl ester | 60.0 mmol, 18.9 g | C(C)(C)(C)OC(=O)C1N(CCC1)C(C(CSC(C)=O)C)=O | C15H25NO4S
reactant | anisole | 75 ml | C1(=CC=CC=C1)OC | C7H8O
product | 1-[(R)3-Acetylsulfanyl-2-methyl-propionyl]-(R)-pyrrolidine-2-carboxylic acid | C(C)(=O)SC[C@@H](C(=O)N1[C@H](CCC1)C(=O)O)C | C11H17NO4S
